US08440689B2
C. tert-Butyl (1S,2R)-2-(5-oxo-4-(m-tolylamino)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-2-ylamino)cyclohexylcarbamate
A mixture of ethyl 2-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-((1,3-dioxoisoindolin-2-yl)methyl)-6-(m-tolylamino)pyrimidine-5-carboxylate (109 mg, 0.174 mmol) and hydrazine hydrate (36.5 mg, 0.729 mmol) in EtOH (2 mL) was stirred at 65° C. for 12 h. After cooling, the mixture was concentrated under reduced pressure and the residue was treated with water and extracted with EtOAc. The combined organic layers were washed with aqueous NaHCO3, water, and brine, were filtered through SiO2, and the filtrate was concentrated under reduced pressure. The residue was recrystallized from EtOAc/hexanes and filtered to give the title compound (34.8 mg). The filtrate was concentrated and triturated with IPE to give a second batch (20.3 mg) of the title compound (total 65.1 mg, 83%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.24-1.79 (m, 17H), 2.32 (s, 3H), 3.84 (br s, 1H), 4.06 (br s, 1H), 4.14 (s, 2H), 6.55-6.70 (m, 1H), 6.87-7.04 (m, 2H), 7.20-7.24 (m, 1H), 7.40-7.48 (m, 1H), 7.68-7.80 (m, 1H), 8.01-8.06 (m, 1H), 8.56-8.59 (m, 1H). [M+H] calc'd for C24H33N6O3, 453. found, 453.

reactant | ethyl 2-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-((1,3-dioxoisoindolin-2-yl)methyl)-6-(m-tolylamino)pyrimidine-5-carboxylate | 0.174 mmol, 109 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=NC(=C(C(=N1)CN1C(C2=CC=CC=C2C1=O)=O)C(=O)OCC)NC=1C=C(C=CC1)C | C34H40N6O6
reactant | hydrazine hydrate | 0.729 mmol, 36.5 mg | O.NN
solvent | EtOH | 2 mL | CCO | C2H6O
product | tert-Butyl (1S,2R)-2-(5-oxo-4-(m-tolylamino)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-2-ylamino)cyclohexylcarbamate | 34.8 mg | O=C1NCC=2N=C(N=C(C21)NC=2C=C(C=CC2)C)N[C@H]2[C@H](CCCC2)NC(OC(C)(C)C)=O | C24H32N6O3
